US06284785B1
(RS)-1-(4-Fluoro-benzenesulfonyl)-2-thien-3-yl-pyrrolidine
The title compound, white solid, m.p. 135° C. and MS: m/e=312.1 (M+H+) was prepared in accordance with the general method of example 1e from (RS)-2-thien-3-yl-pyrrolidine and 4-fluoro-benzenesulfonyl chloride.

reactant | (RS)-2-thien-3-yl-pyrrolidine | S1C=C(C=C1)C1NCCC1 | C8H11NS
reactant | 4-fluoro-benzenesulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | (RS)-1-(4-Fluoro-benzenesulfonyl)-2-thien-3-yl-pyrrolidine | FC1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)C1=CSC=C1 | C14H14FNO2S2
